US09382222B2
A mixture of 4-bromo-N-(4-fluoro-benzyl)-N-isobutyl-benzenesulfonamide (200 mg, 500 μmol), 4-amino-1-boc-piperidine (120 mg, 600 μmol), Pd2(dba)3 (46 mg, 50 μmol), XantPhos (29 mg, 50 μmol), and sodium tert-butoxide (106 mg, 1.1 mmol) in toluene (5 mL) was degassed with nitrogen then heated at 125° C. for 30 minutes in a microwave reactor. Water was added then extracted with EtOAc, washed with brine, dried with Na2SO4, concentrated and purified by silica gel column chromatography (0-50% EtOAc in cyclohexane) to give 4-{4-[(4-fluoro-benzyl)-isobutyl-sulfamoyl]-phenylamino}-piperidine-1-carboxylic acid tert-butyl ester (208 mg, 80%). LCMS (m/z, Method A) ES− 518[M−1]−.

reactant | 4-bromo-N-(4-fluoro-benzyl)-N-isobutyl-benzenesulfonamide | 500 μmol, 200 mg | BrC1=CC=C(C=C1)S(=O)(=O)N(CC(C)C)CC1=CC=C(C=C1)F | C17H19BrFNO2S
reactant | 4-amino-1-boc-piperidine | 600 μmol, 120 mg | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | XantPhos | 50 μmol, 29 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | sodium tert-butoxide | 1.1 mmol, 106 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 50 μmol, 46 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-{4-[(4-fluoro-benzyl)-isobutyl-sulfamoyl]-phenylamino}-piperidine-1-carboxylic acid tert-butyl ester | 208 mg, 80% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=CC=C(C=C1)S(N(CC(C)C)CC1=CC=C(C=C1)F)(=O)=O | C27H38FN3O4S
